US06239152B1
5-(S)-Acetamidomethyl-3-[4′-(2″-hydroxyethyl)sulfinyl-3′-fluorophenyl]oxazolidine-2-one
Sodium periodate (0.014 g, 0.065 mmol) in water (0.5 mL) was added to 5-(S)-acetamidomethyl-3-[4′-(2″-hydroxyethyl)thio-3′-fluorophenyl]-oxazo-lidine-2-one (0.020 g, 0.061 mmol) in methanol (1 mL), and the mixture was stirred at r.t. overnight. Solvent was removed under vacuum, and the residue dissolved in ethyl acetate (ca. 5 mL). Resulting solution was washed with water, brine, and dried (MgSO4). Solvent was removed under vacuum, and the crude product purified by TLC (eluent: 10% methanol in dichloromethane). Yield 0.018 g (86%). MS (m/z): 345 [M+H]+. 1H NMR.

reactant | Sodium periodate | 0.065 mmol, 0.014 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | 5-(S)-acetamidomethyl-3-[4′-(2″-hydroxyethyl)thio-3′-fluorophenyl]-oxazo-lidine-2-one | 0.061 mmol, 0.020 g | C(C)(=O)NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)SCCO)F | C14H17FN2O4S
solvent | water | 0.5 mL | O | H2O
solvent | methanol | 1 mL | CO | CH4O
product | 5-(S)-Acetamidomethyl-3-[4′-(2″-hydroxyethyl)sulfinyl-3′-fluorophenyl]oxazolidine-2-one | C(C)(=O)NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)S(=O)CCO)F | C14H17FN2O5S
